US07723331B2
d) 6-(4-Chlorophenyl)-3-{[6-(piperidin-4-yloxy)pyridin-2-yl]methyl}thieno[3,2-d]pyrimidin-4(3H)-one
tert-Butyl 4-[(6-{[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]methyl}pyridin-2-yl)oxy]piperidine-1-carboxylate (679 mg, 1.23 mmol) was dissolved in DCM (5 ml) and TFA (1 ml) added. The reaction was stirred at rt. for 40 minutes. DCM (150 ml) and sat. Na2CO3 (aq) (150 ml) were added, the phases separated and the aqueous phase extracted with DCM (150 ml). The combined organics were dried through a phase separator and evaporated in vacuo to yield the title compound as a colorless oil. Yield: 550 mg (99%). 1H NMR (400 MHz, CDCl3) δ 8.29 (s, 1H), 7.63 (m, 2H), 7.55 (dd, 1H, J=8.0 Hz, J=7.4 Hz), 7.48 (s, 1H), 7.42 (m, 2H), 6.95 (d, 1H, J=7.2 Hz), 6.61 (d, 1H, J=8.2 Hz), 5.20 (s, 2H), 4.90 (m, 1H), 3.01 (m, 2H), 2.61 (m, 2H), 1.87 (m, 2H), 1.60-1.46 (m, 3H). 13C NMR (400 MHz, CDCl3) δ 163.2, 157.9, 157.1, 151.6, 151.4, 149.3, 139.8, 135.8, 131.8, 129.6, 127.8, 123.1, 121.0, 115.0, 111.3, 71.9, 50.2, 44.4, 32.6. MS (ESI+) 453.00 (M+1H+)

reactant | tert-Butyl 4-[(6-{[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]methyl}pyridin-2-yl)oxy]piperidine-1-carboxylate | 1.23 mmol, 679 mg | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC=CC(=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C28H29ClN4O4S
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | 150 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-Chlorophenyl)-3-{[6-(piperidin-4-yloxy)pyridin-2-yl]methyl}thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=NC(=CC=C1)OC1CCNCC1 | C23H21ClN4O2S
